Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Amoxicillin
 
Attending: ___.
 
Chief Complaint:
CC: vomiting, hematemesis

 

 
 
Major Surgical or Invasive Procedure:
Endoscopy 
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: Ms. ___ is a ___ year old lady who 
is s/p laparoscopic Roux-en-Y gastric bypass on ___. When 
she was advanced to solids one month later, she reported 
dysphagia and mid-chest pressure progressing to sharp pain 
ranging from 7 to 10 out of 10. She would subsequently have 
nausea, then vomit or regurgitate. On ___ she underwent an 
endoscopy which showed a clean based ulcer at her 
gastrojejunostomy. H. pylori workup was negative and she denies 
any NSAID use, smoking, EtOH,
increased spicy foods, or caffeine. She is taking her PPI and 
Carafate as prescribed. 
Today she presents to the emergency department with 8 episodes 
of vomiting despite not eating any solid food all day. The sixth 
and eighth episodes reportedly contained blood. Her last episode 
of emesis was at 3:30 pm this afternoon. She has also felt shaky 
and diaphoretic.  
 
Past Medical History:
Her medical history is significant for:

1)  hypertension
2)  hypothyroidism
3)  hyperlipidemia
4)  chronic low back pain 
5)  osteoarthritis of lower extremity joints
6)  migraine headaches
7)  vitamin B12 deficiency
8)  vitamin D deficiency
9)  gallbladder disorder
10) mild to moderate obstructive sleep apnea (___)

Her surgeries include:

1)  laparoscopic cholecystectomy
2)  bladder suspension in ___
3)  right knee surgery x 2 in ___ and ___
4)  left ankle surgery x 2 in ___ and ___
5)  right shoulder surgery x 2 in ___ and ___

 
Social History:
___
Family History:
FAMILY HISTORY:
She has a family history of obesity, cancer, heart disease, 
diabetes and stroke.

 
Physical Exam:
PHYSICAL EXAM:
Vitals: 97.9 97.8 56 95/63 16 99RA
General: pleasant lady in no acute distress, alert and oriented
x3
Resp: lungs clear to auscultation bilaterally, non-labored
breathing
CV: regular rate and rhythm
GI: soft, mild tender to palpation umbilically,nondistended, no 
masses or hernia 
Skin: no rashes, lesions or ulcers
Extremities: warm and well perfused, distal pulses intact

 
Pertinent Results:
___ 09:05PM BLOOD WBC-9.5 RBC-4.79 Hgb-13.9 Hct-41.4 MCV-86 
MCH-29.1 MCHC-33.6 RDW-14.4 Plt ___
___ 09:05PM BLOOD Neuts-49.6* ___ Monos-4.3 Eos-3.9 
Baso-0.8
___ 09:05PM BLOOD Plt ___
___ 09:05PM BLOOD Glucose-96 UreaN-10 Creat-0.7 Na-142 
K-4.0 Cl-103 HCO3-27 AnGap-16
___ 07:15AM BLOOD WBC-6.6 RBC-4.54 Hgb-12.9 Hct-40.5 MCV-89 
MCH-28.4 MCHC-31.8 RDW-14.3 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-107* UreaN-9 Creat-0.6 Na-143 
K-3.8 Cl-105 HCO3-28 AnGap-14
___ 07:15AM BLOOD Calcium-9.2 Phos-4.8* Mg-2.0 Iron-75
___ 07:15AM BLOOD calTIBC-282 VitB12-482 Folate-GREATER TH 
Ferritn-43 TRF-217
___ 07:15AM BLOOD ___-52
___ 07:15AM BLOOD 25VitD-23*

Imaging Studies
UGI SGL W/ SBFT (___) 1. Status post gastric bypass with no 
evidence of leak or obstruction. 2.  Gaseous distension of the 
excluded stomach (likely from gas reflux) with no contrast 
opacification seen within the excluded stomach to provide 
radiographic evidence of a gastrogastric fistula. 3.  Normal 
small bowel follow through, no evidence of obstruction. 
 
 
Brief Hospital Course:
Ms. ___ was evaluated by the Bariatric service in the Emergency 
Room and admitted to the hospital, made NPO and hydrated with IV 
fluids.  Her endoscopy revealed ulcer at the G-J anastamosis and 
treated with medical managment. She was afebrile and had a 
normal WBC.
Her abdominal exam was followed and her pain was much less.  She 
was passing gas and her diet was resumed.  Her bariatric stage 3 
diet was tolerated well with minimal pain and she was feeling 
much better.  

After an uneventful stay she was discharged to home and will 
follow up with Dr. ___ in 2 weeks or sooner if needed.

 
Medications on Admission:
Protonix
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain 
2. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp 
#*100 Capsule Refills:*2
3. Sucralfate 1 gm PO QID 
RX *sucralfate [Carafate] 1 gram/10 mL 10 ML by mouth four times 
a day Refills:*2
4. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q6H Pain 
Please crush tablets. Please wean as tolerated. 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every six (6) hours Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GI Ulcer
 

 
Discharge Condition:
stable
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions: Please call your surgeon or return to 
the emergency department if you develop a fever greater than 
101.5, chest pain, shortness of breath, severe abdominal pain, 
pain unrelieved by your pain medication, severe nausea or 
vomiting, severe abdominal bloating, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness 
or swelling around your incisions, or any other symptoms which 
are concerning to you.

Diet: Stay on Stage 3 diet until your follow up appointment. Do 
not self advance diet, do not drink out of a straw or chew gum.

Medication Instructions:
Resume your home medications, CRUSH ALL PILLS.
You will be starting some new medications:
1.  You are being discharged on medications to treat the pain 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST refrain from such activities while 
taking these medications.
2. You should begin taking a chewable complete multivitamin with 
minerals. No gummy vitamins.
3. You will be taking omeprazole 40 mg mg twice daily. This 
medicine prevents gastric reflux and your ulcer.
4. You will be taking carafate 4 times a day but 2 hours after 
your omeprazole in the morning and evening.
5. You should take a stool softener, Colace, twice daily for 
constipation as needed, or until you resume a normal bowel 
pattern.
6. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents will cause bleeding and ulcers in your 
digestive system.

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate exercise at your discretion, no abdominal 
exercises.

 
Followup Instructions:
___